US08703768B2
Step 2: 4-Nitro-1-pyridin-2-yl-1H-pyrazole-3-carboxylic acid dimethylamide
A solution of 4-nitro-1H-pyrazole-3-carboxylic acid dimethylamide (250 mg, 1.36 mmol) in DMF (5 ml) was flushed with argon. 2-Bromopyridine (0.17 ml, 1.76 mmol), ferric acetylacetone (144 mg, 0.4 mmol), copper(I)oxide (20 mg, 0.14 mmol) and cesium carbonate (885 mg, 2.7 mmol) were added consecutively and the reaction mixture was stirred at 110° C. overnight. After cooling down, the reaction mixture was partitioned between ethyl acetate (30 ml) and water (15 ml) and extracted. The organic layer was washed with brine, dried and the solvent was evaporated. The product was obtained after purification by silica gel chromatography using a heptane/ethyl acetate gradient as light yellow solid (102 mg, 29%).

reactant | 4-nitro-1H-pyrazole-3-carboxylic acid dimethylamide | 1.36 mmol, 250 mg | CN(C(=O)C1=NNC=C1[N+](=O)[O-])C | C6H8N4O3
reactant | 2-Bromopyridine | 1.76 mmol, 0.17 ml | BrC1=NC=CC=C1 | C5H4BrN
reactant | cesium carbonate | 2.7 mmol, 885 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
catalyst | copper(I)oxide | 0.14 mmol, 20 mg | [Cu-]=O
product | 4-Nitro-1-pyridin-2-yl-1H-pyrazole-3-carboxylic acid dimethylamide | CN(C(=O)C1=NN(C=C1[N+](=O)[O-])C1=NC=CC=C1)C | C11H11N5O3
